US05998463
EXAMPLE 15 5-Cyclopentanecarbonyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide.
Prepared as in Example 1 from 5-(2-cyclopentyl-[1,3]dioxolan-2-yl)-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid ethyl ester and 3-amino-N-phenyl-benzamide. Purified by flash-chromatography (hexanes/acetone, 1:1) followed by trituration in ethyl acetate. mp 208-213° C.

reactant | 5-(2-cyclopentyl-[1,3]dioxolan-2-yl)-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C1CCCC1)CC)=O | C21H27NO5
reactant | 3-amino-N-phenyl-benzamide | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
product | 5-Cyclopentanecarbonyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide | C1(=CC=CC=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(=O)C1CCCC1)CC)=O | C30H29N3O4
